US05604240
b) N,N-Dimethyl-2-(5-nitro-2-(1,2,4-triazol-1-yl)-pyridin-4-yl)ethenamine
To a suspension of 4-methyl-5-nitro-2-(1,2,4-triazol- 1-yl)pyridine (4.1 g, 20 mmol) in dry DMF (30 mL) was added dimethylformamide dimethyl acetal (5.9 mL, 44 mmol) and the mixture heated at 90° C. for 20 min. The solvent was evaporated evaporated in vacuo using toluene as an azeotrope to give the title compound (5.2 g, 100%) as a dark red solid. mp 225°-228° C. 1NMR (360 MHz, CDCl3)δ3.10 (6H, s) 6.13 (1H, d, J=13.1 Hz), 7.54 (1H, d, J=13.1 Hz), 7.81 (1H, s) 8.04 (1H, s), 8.92 (1H, s) and 9.17 (1H, s).

reactant | 4-methyl-5-nitro-2-(1,2,4-triazol- 1-yl)pyridine | 20 mmol, 4.1 g | CC1=CC(=NC=C1[N+](=O)[O-])N1N=CN=C1 | C8H7N5O2
reactant | dimethylformamide dimethyl acetal | 44 mmol, 5.9 mL | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N,N-Dimethyl-2-(5-nitro-2-(1,2,4-triazol-1-yl)-pyridin-4-yl)ethenamine | 5.2 g, 100% | CN(C=CC1=CC(=NC=C1[N+](=O)[O-])N1N=CN=C1)C | C11H12N6O2
